US07700623B2
To an ethanol (10 mL) suspension of 0.50 g of 4-{3-[4-(3-{4-[amino(imino)methyl]phenoxy}propyl)-1-piperidinyl]propoxy}benzamidine was added 1.77 mL of a 2.6 mol/mL hydrogen chloride/ethanol solution at room temperature, which was then stirred at room temperature for 4 hours and 15 minutes. The precipitate was collected by filtration to provide 0.49 g of 4-{3-[4-(3-{4-[amino(imino)methyl]phenoxy}propyl)-1-piperidinyl]propoxy}benzamidine hydrochloride as colorless solid form.

reactant | 4-{3-[4-(3-{4-[amino(imino)methyl]phenoxy}propyl)-1-piperidinyl]propoxy}benzamidine | 0.50 g | NC(C1=CC=C(OCCCC2CCN(CC2)CCCOC2=CC=C(C(=N)N)C=C2)C=C1)=N | C25H35N5O2
reactant | hydrogen chloride ethanol | 2.6 mol/mL | Cl.C(C)O
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 4-{3-[4-(3-{4-[amino(imino)methyl]phenoxy}propyl)-1-piperidinyl]propoxy}benzamidine hydrochloride | 0.49 g | Cl.NC(C1=CC=C(OCCCC2CCN(CC2)CCCOC2=CC=C(C(=N)N)C=C2)C=C1)=N | InChI=1S/C25H35N5O2.ClH/c26-24(27)20-4-8-22(9-5-20)31-17-1-3-19-12-15-30(16-13-19)14-2-18-32-23-10-6-21(7-11-23)25(28)29;/h4-11,19H,1-3,12-18H2,(H3,26,27)(H3,28,29);1H
